US07276518B2
9-Aminofluorene (362 mg, 2 mmol) and 4-dimethylamino-4-phenylcyclohexanone (434 mg, 2 mmol) were dissolved in dry 1,2-dichloroethane (10 ml) under argon. Glacial acetic acid (2 mmol) and sodium triacetoxyborohydride (600 mg) were added to this mixture and the mixture was stirred for 24 hours at RT. For working up, the mixture was concentrated and the residue was adjusted to pH 11 with five molar sodium hydroxide solution. The alkaline phase was diluted with water (10 ml) and extracted with ethyl acetate (5×20 ml). The combined extracts were dried over sodium sulfate and filtered and the filtrate was concentrated. The crude product was chromatographed over silica gel with ethyl acetate/ethanol (1:1). 440 mg N′-(9H-fluoren-9-yl)-N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine were obtained as a white solid which, for preparation of the hydrochloride, was dissolved in 2-butanone (10 ml), and 1.85 M ethanolic HCl (1.55 ml) was added. The mixture of N′-(9H-fluoren-9-yl)-N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine dihydrochloride obtained was filtered off with suction and dried (460 mg, m.p. 202-205° C.).

reactant | 9-Aminofluorene | 2 mmol, 362 mg | NC1C2=CC=CC=C2C=2C=CC=CC12 | C13H11N
reactant | 4-dimethylamino-4-phenylcyclohexanone | 2 mmol, 434 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | acetic acid | 2 mmol | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 600 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | N′-(9H-fluoren-9-yl)-N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine | 440 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)NC1CCC(CC1)(N(C)C)C1=CC=CC=C1 | C27H30N2
